US07019011B2
1.1 ml of 2N HCl are added to 661 mg of 6,7-difluoro-5-phenyl-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazole-3-amine in 15 ml of methanol. The reaction is subjected to microwaves for 3 minutes at 140° C. After hydrolysis with saturated KH2PO4 solution and extraction with methylene chloride, the solvents are evaporated off and the residue is chromatographed on silica (methylene chloride/ethyl acetate) to give 314 mg of 6,7-difluoro-5-phenyl-1H-indazole-3-amine.

reactant | HCl | 2N, 1.1 ml | Cl | ClH
reactant | 6,7-difluoro-5-phenyl-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazole-3-amine | 661 mg | FC1=C(C=C2C(=NN(C2=C1F)COCC[Si](C)(C)C)N)C1=CC=CC=C1 | C19H23F2N3OSi
solvent | methanol | 15 ml | CO | CH4O
product | 6,7-difluoro-5-phenyl-1H-indazole-3-amine | 314 mg | FC1=C(C=C2C(=NNC2=C1F)N)C1=CC=CC=C1 | C13H9F2N3
